data/oMe_Silver.jsonl
{"reaction_id": "NR-314_1-CC_2-C(C)(C)C_3-CCCC(C)C_4-CC","level": "medium","name": "Upjohn Dihydroxylation","reactants_smiles": ["C(CC)(C(C)(C)C)=C(CCCC(C)C)(CC)","C[N+]1(CCOCC1)[O-]"],"products_smiles": ["C(O)(CC)(C(C)(C)C)C(O)(CCCC(C)C)(CC)"],"conditions": "cat. OsO4, NMO, H2O","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "pericyclic","subtype": "cycloaddition","intermediate_smiles": "C1(CC)(C(C)(C)C)O[Os](=O)(=O)OC1(CCCC(C)C)(CC)","step_weight": 0,"rationale": "The alkene’s π electrons coordinate to electrophilic Os(VIII) in OsO4, forming a cyclic osmate ester via concerted [3+2] cycloaddition, favored by strong osmium–oxygen π-acceptor interactions and minimal steric hindrance in the transition state."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(O)(CC)(C(C)(C)C)C(O)(CCCC(C)C)(CC)","step_weight": 0,"rationale": "Water attacks the electrophilic osmium-bound carbons, cleaving the Os–O–C bonds; the good leaving ability of the osmium species and relief of ring strain drive formation of the cis-diol."},{"step": 3,"type": "electron_transfer","subtype": "single_electron_transfer","intermediate_smiles": "O=[Os](=O)(=O)=O","step_weight": 0,"rationale": "NMO oxidizes Os(VI) back to Os(VIII) via single-electron transfer, driven by N–O bond cleavage and the high thermodynamic stability of the reoxidized osmium species, allowing catalytic turnover."}],"description": "The alkene undergoes syn-dihydroxylation via OsO4-mediated [3+2] cycloaddition to form a cyclic osmate ester. Hydrolysis releases the cis-diol, and NMO reoxidizes Os(VI) to Os(VIII), enabling catalytic turnover under mild aqueous conditions."}
{"reaction_id": "NR-114_1-CCCC(C)C","level": "medium","name": "Hunsdiecker Reaction","reactants_smiles": ["[Ag+].O=C([O-])(CCCC(C)C)","BrBr"],"products_smiles": ["[Br](CCCC(C)C)"],"conditions": "hν or Heat","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "O=C(OBr)(CCCC(C)C)","step_weight": 0,"rationale": "Silver carboxylate acts as a nucleophile toward bromine, forming the acyl hypobromite due to the high electrophilicity of bromine and the good leaving ability of AgBr."},{"step": 2,"type": "radical","subtype": "radical_initiation","intermediate_smiles": "O=C([O])(CCCC(C)C)","step_weight": 0,"rationale": "Heat or light induces homolytic cleavage of the weak O–Br bond in the hypobromite, generating an acyloxy radical and bromine radical."},{"step": 3,"type": "elimination","subtype": "radical_elimination","intermediate_smiles": "[C](CCCC(C)C)","step_weight": 0,"rationale": "The acyloxy radical rapidly decarboxylates, driven by CO₂ release and formation of a more stable alkyl radical."},{"step": 4,"type": "substitution","subtype": "radical_substitution","intermediate_smiles": "[Br](CCCC(C)C)","step_weight": 0,"rationale": "The alkyl radical reacts with bromine radical to form the alkyl bromide, favored by the strong C–Br bond formation and radical recombination kinetics."}],"description": "In the Hunsdiecker reaction, a silver carboxylate reacts with bromine under heat or light to form an alkyl bromide via radical decarboxylation. The process involves initial formation of an acyl hypobromite, homolytic cleavage to generate radicals, CO₂ loss, and radical recombination with bromine."}
